US04592866
2,3-Dihydro-4-methyl-2-[2-(methylphenylamino)ethyl]pyrido[3,2-f][1,4]oxazepine-5(4H)-thione
To a suspension of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione in 100 ml of toluene was added 11.49 g (0.11 mole) N-methylaniline and the mixture heated to reflux with stirring for 2 days (after approx. 6 hr, 23.0 g (0.22 mole) additional N-methylaniline was added). Toluene was removed by rotary evaporation (90° C., water aspirator). The N-methylaniline was removed also by rotary evaporation (90° C., vacuum pump). The residue was taken up in 100 ml of chloroform and washed with 3×30 ml dilute aqueous sodium hydroxide. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated by rotary evaporation (80° C., water aspirator). More N-methylaniline was removed with the vacuum pump at 90° C. for several hours. To the residue was added 150 ml of ethyl acetate at which point some product crystallized out. However, since much remained in solution, preparative HPLC on a silica gel column eluting with 60% hexane/40% ethyl acetate was effected. After concentrating the flasks containing the product, crystallization was effected induced by seeding. The chromatographed product was recrystallized from ethyl acetate/isopropyl alcohol and amounted to 1.1 g m.p. 164°-5° C. Approximately 2 g additional was collected by recrystallization of crude product, m.p. 163°-4° C. The combined yield was 3.1 g (26%).

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione | ClCCC1OC2=C(C(N(C1)C)=S)C=CC=N2 | C11H13ClN2OS
reactant | N-methylaniline | 0.11 mole, 11.49 g | CNC1=CC=CC=C1 | C7H9N
reactant | N-methylaniline | 0.22 mole, 23.0 g | CNC1=CC=CC=C1 | C7H9N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydro-4-methyl-2-[2-(methylphenylamino)ethyl]pyrido[3,2-f][1,4]oxazepine-5(4H)-thione | CN1CC(OC2=C(C1=S)C=CC=N2)CCN(C2=CC=CC=C2)C | C18H21N3OS
